US06624159B2
N-(4-Chlorobenzyl)-9-iodo-1-methyl-2,7-dioxo-2,3-dihydro-1H,7H-pyrido[1,2,3-de]quinoxaline-6-carboxamide. [AG.2]
A mixture of ethyl 9-iodo-1-methyl-2,7-dioxo-2,3-dihydro-1H,7H-pyrido[1,2,3-de]quinoxaline-6-carboxylate (Preparation 22, 400 mg) is stirred at 180° C. in 4-chlorobenzylamine (2.0 mL) for 1 h. The mixture is cooled and diluted with acetonitrile to give 412 mg of the title compound. Physical characteristics: M.p. 278-283° C.; 1H NMR (DMSO-d6) δ3.38, 4.55, 5.21, 7.35, 7.39, 7.69, 8.18, 8.76, 10.12. Anal. Found: C, 47.43; H, 3.01; N, 8.32; Cl, 7.14.

reactant | ethyl 9-iodo-1-methyl-2,7-dioxo-2,3-dihydro-1H,7H-pyrido[1,2,3-de]quinoxaline-6-carboxylate | 400 mg | IC=1C=C2C=3N(CC(N(C3C1)C)=O)C=C(C2=O)C(=O)OCC | C15H13IN2O4
reactant | 4-chlorobenzylamine | 2.0 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(4-Chlorobenzyl)-9-iodo-1-methyl-2,7-dioxo-2,3-dihydro-1H,7H-pyrido[1,2,3-de]quinoxaline-6-carboxamide | 412 mg | ClC1=CC=C(CNC(=O)C=2C(C=3C=4N(CC(N(C4C=C(C3)I)C)=O)C2)=O)C=C1 | C20H15ClIN3O3
